US05292760
2-Amino-4-chloro-N-methyl-α-(2-methyl-3-thienyl)benzeneethanamine dihydrochloride
A mixture of 5.00 g of α-(2-methyl-3-thienyl)-N-methyl-4-chloro-2-nitrobenzeneethanamine, 9.32 g of iron powder, 100 ml of 95% ethanol, 25 ml of water, and 0.7 ml of concentrated hydrochloric acid was heated at reflux for 1.5 hr. The mixture was filtered through celite, and the organic phase was evaporated. The residue was basified with 10% aqueous sodium hydroxide, and extracted with dichloromethane. The combined organic phase was dried over anhydrous sodium sulfate, filtered and evaporated. The residue was dissolved in methanol and acidified with ethereal hydrogen chloride. The solution was diluted with ether, and the solid was collected, washed with ether, dried in vacuo, and recrystallized from methanol/ether to give 2.6 g of product, mp 242°-243° C. (dec.)

reactant | α-(2-methyl-3-thienyl)-N-methyl-4-chloro-2-nitrobenzeneethanamine | 5.00 g | CC=1SC=CC1C(CC1=C(C=C(C=C1)Cl)[N+](=O)[O-])NC | C14H15ClN2O2S
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 0.7 ml | Cl | ClH
catalyst | iron | 9.32 g | [Fe] | Fe
solvent | water | 25 ml | O | H2O
product | 2-Amino-4-chloro-N-methyl-α-(2-methyl-3-thienyl)benzeneethanamine dihydrochloride | 2.6 g | Cl.Cl.NC1=C(C=CC(=C1)Cl)CC(NC)C1=C(SC=C1)C | InChI=1S/C14H17ClN2S.2ClH/c1-9-12(5-6-18-9)14(17-2)7-10-3-4-11(15)8-13(10)16;;/h3-6,8,14,17H,7,16H2,1-2H3;2*1H
